US03953429
3α,11α-Dihydroxy-5α-pregnan-20-one
A solution of 20,20-ethylenedioxy-3α-hydroxy-5α-pregnan-11-one (350 mg.) in mthanol (20 ml.) was treated with 25% aqueous acetic acid (2 ml.) at room temperature. After 18 hr. more 25 % aqueous acetic acid (2 ml.) was added and after a further 27 hr. the mixture was diluted with chloroform, washed with water, dried (Na2SO4) and evaporated to leave a white foam (300 mg.). Crystallisation from acetone and petroleum ether (b.p. 60°-80°) gave the title compound (160 mg.) as off-white rods; m.p. 152°-154°; [α]D + 79°.

reactant | 20,20-ethylenedioxy-3α-hydroxy-5α-pregnan-11-one | 350 mg | C1OC(C)([C@H]2CC[C@H]3[C@@H]4CC[C@H]5C[C@@H](CC[C@]5(C)[C@H]4C(C[C@]23C)=O)O)OC1 | C23H36O4
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3α,11α-Dihydroxy-5α-pregnan-20-one | 160 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@H]([C@@H]3[C@]2(CC1)C)O)C | C21H34O3
